US05389641
19b) 2-(5-Methyl-2-pyridyl)benzonitrile
To a stirred solution of 2-bromo-5-methylpyridine (1.2 g) in THF (15 ml) at -78° C. under argon atmosphere was added 1.65M solution of butyl lithium in hexane (4.4 ml) dropwise and the reaction mixture was stirred for 10 minutes followed by addition of zinc chloride (1M ether solution, 7.2 ml) and then stirring at 0° C. for 30 minutes. The resulting zinc compound was poured into an ice-cooled, stirred mixture of 2-cyanophenyl trifluoromethanesulfonate (1.2 g) and tetrakistriphenylphosphine paladium (Pd(PPh3)4, 0.42 g) in THF (15 ml) under argon atmosphere and the mixture was stirred for 15 hours and concentrated to dryness. The residue was purified by column chromatography on silica gel to give crystals. Recrystallization from hexane afforded colorless needles (0.4 g, 29%), m.p. 80°-81° C.

reactant | 2-bromo-5-methylpyridine | 1.2 g | BrC1=NC=C(C=C1)C | C6H6BrN
reactant | butyl lithium | C(CCC)[Li]
reactant | 2-cyanophenyl trifluoromethanesulfonate | 1.2 g | FC(S(=O)(=O)OC1=C(C=CC=C1)C#N)(F)F | C8H4F3NO3S
solvent | THF | 15 ml | C1CCOC1 | C4H8O
solvent | hexane | 4.4 ml | CCCCCC | C6H14
solvent | THF | 15 ml | C1CCOC1 | C4H8O
catalyst | zinc chloride | 1M, 7.2 ml | [Cl-].[Zn+2].[Cl-]
catalyst | zinc | [Zn] | Zn
catalyst | Pd(PPh3)4 | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | 2-(5-Methyl-2-pyridyl)benzonitrile | CC=1C=CC(=NC1)C1=C(C#N)C=CC=C1 | C13H10N2
